US04230481
In a four necked flask, 1.4 g of 1,3-dimethyl-4-(2-chloro-4-nitrobenzoyl)-5-hydroxypyrazole was dissolved in 10 ml of ethyl ether. The solution was cooled with ice-water and an ether solution of diazomethane was added and the reaction was carried out until ceasing nitrogen gas. Diazomethane and ether were distilled off from the reaction mixture to obtain the precipitate of the reaction product. The precipitate was dissolved in methylene chloride. The solution was mixed with a saturated aqueous solution of sodium bicarbonate. The organic phase was separated and methylene chloride was distilled off to obtain a solid product. The solid product was dissolved in toluene and adsorbed on a silica gel column and eluted with methylene chloride to obtain 0.8 g of 1,3-dimethyl-4-(2-chloro-4-nitrobenzoyl)-5-methoxy pyrazole having a melting point of 97° to 98° C.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,3-dimethyl-4-(2-chloro-4-nitrobenzoyl)-5-hydroxypyrazole | 1.4 g | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O)C | C12H10ClN3O4
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 1,3-dimethyl-4-(2-chloro-4-nitrobenzoyl)-5-methoxy pyrazole | 0.8 g | CN1N=C(C(=C1OC)C(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O)C | C13H12ClN3O4
